US07399769B2
a) 5-Methyl-3-phenyl-isoxazole-4-carboxylic acid (pyridin-2-ylmethyl)-amide
A mixture of 5-methyl-3-phenyl-isoxazole-4-carboxylic acid (4.06 g, 20 mmol, commercially available) and thionyl chloride (5 mL) was heated under reflux for 3 h. Evaporation of all volatiles afforded 5-methyl-3-phenyl-isoxazole-4-carboxylic acid chloride (4.4 g, 93%) as yellow oil, which was used without further purification in the next reaction. To a mixture of an aqueous solution of 2-picolylamine (0.182 g, 1.68 mmol) in water (2 mL) and ethyl acetate (4 mL) were added sodium hydrogen carbonate (362 mg, 4.2 mmol) in one portion. Then, 5-methyl-3-phenyl-isoxazole-4-carboxylic acid chloride (0.31 g, 1.4 mmol) in ethyl acetate (2 mL) was added dropwise with vigorous stirring under ice-bath cooling keeping the temperature at 0° C. After addition, the reaction mixture was stirred at room temperature for 18 h. The resulting solution was then diluted with ethyl acetate. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The combined extracts were then washed with brine, dried over sodium sulphate) and concentrated to afford the title compound (0.38 g, 93%) as a white solid. MS: m/e: 294.1 [M+H]+.

reactant | 2-picolylamine | 1.68 mmol, 0.182 g | N1=C(C=CC=C1)CN | C6H8N2
reactant | sodium hydrogen carbonate | 4.2 mmol, 362 mg | C(O)([O-])=O.[Na+]
reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid chloride | 1.4 mmol, 0.31 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)Cl | C11H8ClNO2
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 5-Methyl-3-phenyl-isoxazole-4-carboxylic acid (pyridin-2-ylmethyl)-amide | 0.38 g, 93% | N1=C(C=CC=C1)CNC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C17H15N3O2
